US08022075B2
3-Bromo-4-(1,3-oxazol-5-yl)benzaldehyde (54)
N-Bromosuccinimide (2.36 g) and 2,2′-azobis(2-methylpropionitrile) (164 mg) were added to a solution (100 mL) of 5-(2-bromo-4-methylphenyl)-1,3-oxazole (2.6 g) in carbon tetrachloride, and the mixture was refluxed under heating for 2.5 hours. Insoluble matter was removed through filtration, followed by purification, to thereby yield 5-[2-bromo-4-(bromomethyl)phenyl]-1,3-oxazole (3.2 g). Acetic acid (190 mg) and sodium hydrogencarbonate (336 mg) were added to a solution (50 mL) of the thus-obtained 5-[2-bromo-4-(bromomethyl)phenyl]-1,3-oxazole (500 mg) in anhydrous N,N-dimethylformamide, and the mixture was stirred at room temperature for 23 hours. The solvent was evaporated, and the residue was purified, to thereby yield 3-bromo-4-(1,3-oxazol-5-yl)benzyl acetate (300 mg). This procedure was repeated. 2N Aqueous sodium hydroxide solution (5 mL) was added to a solution (50 mL) of the thus-obtained 3-bromo-4-(1,3-oxazol-5-yl)benzyl acetate (490 mg) in methanol, and the mixture was stirred at room temperature for 30 minutes. The solvent was evaporated, and the residue was purified, to thereby yield [3-bromo-4-(1,3-oxazol-5-yl)phenyl]methanol (350 mg). Manganese dioxide (672 mg) was added to a solution (50 mL) of the thus-obtained [3-bromo-4-(1,3-oxazol-5-yl)phenyl]methanol (350 mg) in chloroform, and the mixture was refluxed under heating for 20 hours. Insoluble matter was removed through filtration by use of Celite, and the filtrate was concentrated under reduced pressure. The residue was purified through silica gel column chromatography (dichloromethane), followed by concentration, to thereby yield the title compound (300 mg).

reactant | N-Bromosuccinimide | 2.36 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | 164 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | 5-(2-bromo-4-methylphenyl)-1,3-oxazole | 100 mL, 2.6 g | BrC1=C(C=CC(=C1)C)C1=CN=CO1 | C10H8BrNO
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-Bromo-4-(1,3-oxazol-5-yl)benzaldehyde | 300 mg | BrC=1C=C(C=O)C=CC1C1=CN=CO1 | C10H6BrNO2
